US07790887B2
Preparation of (8E,12E,14E)-6-(1-ethoxyethoxy)-7-hydroxy-6,10,12,16,20-pentamethyl-3,16,21-tris(triethylsiloxy)-18,19-epoxytricosa-8,12,14-trien-11-olide
Under a nitrogen atmosphere and warming to hold the outside temperature at 25° C., 104 mL (20.8 mmol) of a 0.2 M solution of guanidine/guanidine nitrate in methanol was added to a methanol (79 mL) solution containing 18.4 g of (8E,12E,14E)-7-acetoxy-6-(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-3,16,21-tris(triethylsiloxy)-18,19-epoxytricosa-8,12,14-trien-11-olide, following which stirring was carried out for 6 hours with maintaining the internal temperature at from 24.9 to 24.5° C. The reaction mixture was then ice-cooled and 276 mL of t-butyl methyl ether was added, following which 184 mL of a 10% aqueous solution of ammonium chloride was added. The organic phase was then separated, washed successively with water (184 mL) and a 4% saline solution (184 mL), and subsequently dried over magnesium sulfate (18.4 g). After drying, the magnesium sulfate was removed by filtration, following which the filtrate was washed with t-butyl methyl ether (55 mL) then evaporated at 40° C., yielding 19.7 g of a crude form (yellow oily substance) of the title compound (content: 73.4%; by weight, 14.5 g).

reactant | guanidine guanidine nitrate | NC(=N)N.[N+](=O)(O)[O-].NC(=N)N
reactant | (8E,12E,14E)-7-acetoxy-6-(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-3,16,21-tris(triethylsiloxy)-18,19-epoxytricosa-8,12,14-trien-11-olide | 18.4 g | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)O[Si](CC)(CC)CC)C)O1)(O[Si](CC)(CC)CC)C)\C)O[Si](CC)(CC)CC)(C)OC(C)OCC | C52H98O10Si3
reactant | t-butyl methyl ether | 276 mL | COC(C)(C)C | C5H12O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | CO | CH4O
solvent | methanol | 79 mL | CO | CH4O
product | (8E,12E,14E)-6-(1-ethoxyethoxy)-7-hydroxy-6,10,12,16,20-pentamethyl-3,16,21-tris(triethylsiloxy)-18,19-epoxytricosa-8,12,14-trien-11-olide | 14.5 g, 73.4% | C(C)OC(C)OC1(CCC(CC(=O)OC(C(/C=C/C1O)C)\C(=C\C=C\C(CC1C(C(C(CC)O[Si](CC)(CC)CC)C)O1)(O[Si](CC)(CC)CC)C)\C)O[Si](CC)(CC)CC)C | C50H96O9Si3
